data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_597267_0,[C:1]([N:3]([H:11])[H:12])(=[C:4](/[O:5][H:8])[H:13])/[N:6]=[N:7]/[N:2]([H:9])[H:10]>>[C:1]1([N:3]([H:11])[H:12])=[N:6][N:7]([N:2]([H:9])[H:10])[C:4]1([O:5][H:8])[H:13],31.218125000010843
MR_707428_1,[C:1](/[N:8]=[C:3]([C:5](=[C:4](\[C:2]([H:15])([H:16])[H:17])[O:7][H:10])\[H:11])/[O:6][H:9])([H:12])([H:13])[H:14]>>[C:1]([N:8]1[C:3]([O:6][H:9])=[C:5]([H:11])[C@@:4]1([C:2]([H:15])([H:16])[H:17])[O:7][H:10])([H:12])([H:13])[H:14],40.28299000002392
MR_359656_1,[C:1]([C:2]([N:7]=[C:3]([N:4]([H:9])[H:10])[N:5]([H:11])[H:12])([H:15])[H:16])([N:6]=[O:8])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:2]([H:15])([H:16])[N:7]1[C:3]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[N:6]=[O:8],69.43852249996326
MR_660295_0,[C:1]1(/[C:6]([C:3]([H:15])([H:16])[H:17])=[C:5](/[C:2]([H:12])([H:13])[H:14])[O:8][H:9])([H:11])[N:4]([H:10])[O:7]1>>[C:1](\[N:4]([O:7][H:9])[H:10])(=[C:6](/[C:3]([H:15])([H:16])[H:17])[C:5]([C:2]([H:12])([H:13])[H:14])=[O:8])[H:11],12.051137499999667
MR_580450_0,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])(/[C:4]([N:7]=[C:6]([H:17])[H:18])=[N:8]/[H:13])([N:5]([H:11])[H:12])[H:10]>>[C:1]1([N:5]([H:11])[H:12])([H:10])[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])([N:7]=[C:6]([H:17])[H:18])[N:8]1[H:13],56.06336000002486
MR_529810_0,[n:1]1([O:7][H:9])/[c:2](=[N:8]\[H:12])[o:6][c:5]([H:13])[c:3]1[N:4]([H:10])[H:11]>>[N:1](=[C:3](\[N:4]([H:10])[H:11])[C:5]1([H:13])/[C:2](=[N:8]/[H:12])[O:6]1)\[O:7][H:9],56.161249999991725
MR_165042_1,[C:1]([C:5]([C:3](/[N:2]=[N:4]/[H:8])=[C:6]([H:14])[H:15])([O:7][H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:2]([C:3]([C:5](=[O:7])[H:10])=[C:6]([H:14])[H:15])[N:4]([H:8])[H:9])([H:11])([H:12])[H:13],67.18203249998894
MR_95445_0,[C:1]([C:3](/[C:2](=[C:4](\[O:7][H:9])[H:10])[O:6][H:8])=[C:5]([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[C:2]([O:6][H:8])[C@:4]([O:7][H:9])([H:10])[C:5]1([H:14])[H:15])([H:11])([H:12])[H:13],45.22706250002557
MR_264106_0,[N:1](/[C:2]([N:3]([H:10])[H:11])=[N:6]/[O:5][H:8])([C:4](=[O:7])[H:12])[H:9]>>[N:1](=[C:2](/[N:3]([H:10])[H:11])[N:6]([C:4](=[O:7])[H:12])[O:5][H:8])\[H:9],46.535400000003904
MR_513469_1,[C:1]([C:5](=[C:4]([O:8][H:10])[O:9][H:11])[C:7]([C:6]([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]1=[C:7]([H:12])[C:6]([C:2]([H:16])([H:17])[H:18])([C:3]([H:19])([H:20])[H:21])[C:4]1([O:8][H:10])[O:9][H:11])([H:13])([H:14])[H:15],46.88178000002111
MR_27178_0,[C:1](/[C:3]([O:6][H:8])=[N:7]/[C:4](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([O:6][H:8])[C:5]([C:2]([H:14])([H:15])[H:16])([H:10])[C:4]([H:9])=[N:7]1)([H:11])([H:12])[H:13],60.20988000000699
MR_257691_0,[C:1]([O:3]/[C:2]([O:4][H:6])=[N:5]/[H:7])([H:8])([H:9])[H:10]>>[C:1]([O:3]/[N:5]=[C:2](\[O:4][H:6])[H:7])([H:8])([H:9])[H:10],71.65736249999696
MR_241646_0,[C:1]([C:5]([O:8][C:4](=[C:6]([C:2]([H:15])([H:16])[H:19])[C:3]([H:17])([H:18])[H:20])[N:7]([H:10])[H:11])=[O:9])([H:12])([H:13])[H:14]>>[C:1]([C:5]([C:6]([C:2]([H:15])([H:16])[H:19])([C:3]([H:17])([H:18])[H:20])[C:4]([N:7]([H:10])[H:11])=[O:8])=[O:9])([H:12])([H:13])[H:14],32.820759999995204
MR_39664_0,[C:1]([C:2]([H:10])([H:11])[H:12])([N:3]([O:4][H:7])[N:5]=[O:6])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([O:6][N:5][N:3][O:4][H:7])([H:8])[H:9],54.97025500003815
MR_8706_1,[C:1]([N:2]([C:4]([N:3]([N:6]([H:11])[H:12])[H:8])=[C:7]([H:16])[H:17])[N:5]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([N:2]([N:3]([C:4]([N:6]([H:11])[H:12])=[C:7]([H:16])[H:17])[H:8])[N:5]([H:9])[H:10])([H:13])([H:14])[H:15],56.769297500026
MR_226707_0,[C:1]([C:2]([C:4]([N:5]([H:9])[H:10])=[O:7])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:6]([H:11])[H:12])[H:8]>>[C:1](\[C:2]([C:4]([N:5]([H:9])[H:10])([O:7][H:11])[H:8])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])=[N:6]/[H:12],71.29027499999637
MR_99464_1,[C:1](/[N:8]=[C:5](\[N:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])[O:7][H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:8]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])[C:5]([N:3][O:7][H:9])[H:10])([H:11])([H:12])[H:13],59.42362249999462
MR_372195_0,[C:1]([N:3]([H:10])[H:11])(=[O:5])[N:7]([N:2]([H:8])[H:9])[N:6]=[C:4]([H:12])[H:13]>>[C:1](\[N:3]([H:10])[H:11])([O:5][N:6]=[C:4]([H:12])[H:13])=[N:7]\[N:2]([H:8])[H:9],73.03535249997779
MR_676290_1,[C:1]1([H:11])([H:12])[C:4](=[C:7]([H:16])[H:17])[O:8][C:3]([N:6]([H:9])[H:10])=[C:5]1[C:2]([H:13])([H:14])[H:15]>>[C:1]1([H:11])([H:12])[C:4](=[C:7]([H:16])[H:17])[C:5]1([C:2]([H:13])([H:14])[H:15])[C:3]([N:6]([H:9])[H:10])=[O:8],56.4536650000025
MR_648082_1,[C@@:1]([C:3]([H:15])([H:16])[H:17])(/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]/[C:2]([H:12])([H:13])[H:14])(/[C:7]([C:5]([H:21])([H:22])[H:23])=[N:9]\[H:11])[H:10]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[C:6](/[C:4]([H:18])([H:19])[H:20])[N:8]([C:2]([H:12])([H:13])[H:14])/[C:7]([C:5]([H:21])([H:22])[H:23])=[N:9]\[H:11])[H:10],55.47790250000489
